* C:\Users\hicha\OneDrive\Bureau\Draft5.asc
V1 V1 0 PULSE(0 5 0 10ns 10ns 1ms 2ms 0)
V2 V2 0 PULSE(0 5 0 10ns 10ns 2ms 4ms 0)
M1 N001 V1 Vout Vout NMOS
M2 N001 V2 Vout Vout NMOS
M3 N002 V1 Vout Vout PMOS
M4 0 V2 N002 N002 PMOS
V3 N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hicha\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20ms
.backanno
.end
